US07256288B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-4-iodo-3-nitrobenzamide
A solution of 3.08 g (24.4 mmol) of 3-aminoquinuclidine dihydrochloride, 7.60 g (24.4 mmol) of 4-iodo-3-nitrobenzoyl chloride, 9.88 g (97.6 mmol) of triethylamine in 150 ml of DMF was stirred at room temperature overnight. The solvent was distilled off in a rotary evaporator, the residue was taken up in 200 ml of dichloromethane, and 200 ml of a saturated sodium bicarbonate solution were added. The organic phase was dried over sodium sulfate, and the solvent was distilled off in vacuo. 2.20 g (22.5%) of the desired title compound were obtained.

reactant | 3-aminoquinuclidine dihydrochloride | 24.4 mmol, 3.08 g | Cl.Cl.NC1CN2CCC1CC2
reactant | 4-iodo-3-nitrobenzoyl chloride | 24.4 mmol, 7.60 g | IC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3ClINO3
reactant | triethylamine | 97.6 mmol, 9.88 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-4-iodo-3-nitrobenzamide | 2.20 g, 22.5% | N12CC(C(CC1)CC2)NC(C2=CC(=C(C=C2)I)[N+](=O)[O-])=O | C14H16IN3O3
